Test OpAmp Tran

*.OPTIONS RELTOL=.0001
***************************************
* Step 1: Replace circuit netlist here.
*************************************** 
.include ./AMP_NMCNR_Pin_3_HSPICE_130.txt

.param mc_mm_switch=0
.param mc_pr_switch=0
*.temp
.include ../sky130_pdk/libs.tech/ngspice/corners/tt.spice
.include ../sky130_pdk/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include ../sky130_pdk/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include ../sky130_pdk/libs.tech/ngspice/corners/tt/specialized_cells.spice

***************************************
* Step 2: Replace circuit param.  here.
*************************************** 
.PARAM supply_voltage = 1.8
.PARAM VCM_ratio = 0.25
.PARAM PARAM_CLOAD =100p 
.PARAM val0 = 3.000000e-01
.PARAM val1 = 5.000000e-01
.PARAM GBW_ideal = 5e4
.PARAM STEP_TIME = '10/GBW_ideal'
.PARAM TRAN_SIM_TIME = '20/GBW_ideal + 1e-6'

.include ./AMP_NMCNR_vars.spice

V1 vdd 0 'supply_voltage'
V2 vss 0 0 

* Circuit List:
* Leung_NMCNR_Pin_3
* Leung_NMCF_Pin_3
* Leung_DFCFC1_Pin_3
* Leung_DFCFC2_Pin_3

* XOP gnda vdda vinn vinp vout
*        |  |     |     |   |
*        |  |     |     |   Output
*        |  |     |     Non-inverting Input
*        |  |      Inverting Input
*        |  Positive Supply
*        Negative Supply 

***************************************
* Step 3: Replace circuit name below.
* e.g. Leung_NMCNR_Pin_3 -> Leung_NMCNR_Pin_3
*************************************** 
* Transient  TB
Ib Ib gnda DC='I_Ib'  
VVISR visr 0 pulse('val0' 'val1' 1u 1p 1p '1*STEP_TIME' 1)
x1 vss vdd vout3 visr vout3 Ib Leung_NMCNR_Pin_3
CLoad6 vout3 0 'PARAM_CLOAD'

.control
save all
.options savecurrents 
set filetype=ascii
set units=degrees

tran 1u 4.01e-4
meas tran t_rise_edge when v(vout3)=0.4 rise=1
let t_rise_ = t_rise_edge-1u
let t_rise = t_rise_*1e6
let sr_rise = 0.1/t_rise
print t_rise
print sr_rise
meas tran t_fall_edge when v(vout3)=0.4 fall=1
let t_fall_ = t_fall_edge - 1u - 10/5e4 
let t_fall = t_fall_*1e6
let sr_fall = 0.1/t_fall
print t_fall
print sr_fall
wrdata AMP_NMCNR_Tran sr_rise sr_fall
plot v(visr) v(vout3)
write AMP_NMCNR_tran.dat v(vout3) v(visr)

* OP
op
.include ./AMP_NMCNR_dev_params.spice
.endc

.end
